US09079861B2
To a solution of (R)-4-allyl-1-((S)-1-(2′,4′-difluorobiphenyl-4-yl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one (42 mg, 0.092 mmol) in THF (10 mL) was added 1M BH3 in THF (1.5 mL, 1.5 mmol) at 0° C. under nitrogen. The mixture was stirred for 2 h. The reaction was quenched by water. 3 M aq NaOH (0.3 mL, 3 mmol) and H2O2 (3 mL) were added. The resulting mixture was stirred for 1.5 h. The mixture was extracted with EtOAc and the combined organic phase was concentrated to give the crude product, which was purified by preparative HPLC to give (R)-1-((S)-1-(2′,4′-difluorobiphenyl-4-yl)ethyl)-4-(4-fluorophenyl)-4-(3-hydroxypropyl)tetrahydropyrimidin-2(1H)-one (8 mg, 19%). LC-MS Method 1 tR=1.413 min, m/z=469.2; 1H NMR (CDCl3): δ=1.36 (m, 2H), 1.45 (m, 3H), 1.91-2.01 (m, 5H), 2.18 (m, 1H), 2.83 (m, 1H), 3.52 (m, 2H), 5.76 (m, 2H), 6.09 (m, 1H), 6.38-6.98 (m, 4H), 7.16 (m, 2H), 7.22 (m, 1H), 7.25 (m, 1H), 7.28 (m, 3H).

reactant | (R)-4-allyl-1-((S)-1-(2′,4′-difluorobiphenyl-4-yl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | 0.092 mmol, 42 mg | C(C=C)[C@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O)C1=CC=C(C=C1)F | C27H25F3N2O
reactant | NaOH | 3 mmol, 3 M, 0.3 mL | [OH-].[Na+]
reactant | H2O2 | 3 mL | OO | H2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mmol, 1.5 mL | C1CCOC1 | C4H8O
product | (R)-1-((S)-1-(2′,4′-difluorobiphenyl-4-yl)ethyl)-4-(4-fluorophenyl)-4-(3-hydroxypropyl)tetrahydropyrimidin-2(1H)-one | 8 mg, 19% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)[C@H](C)N1C(N[C@@](CC1)(CCCO)C1=CC=C(C=C1)F)=O | C27H27F3N2O2
